US06034275
A solution of 10.7 g of 1,4-dibromobenzene in 80 ml of absolute THF is cooled to -78° C. and treated within 30 min. with 25.6 ml of 1.6M butyllithium in hexane. After 30 min. 6.08 g of (4E,8E)-(RS)-4,8-dimethyl-10-(tetrahydro-pyran-2-yloxy)-deca-4,8-dienal in 20 ml of THF are added dropwise. After 1 hr. at -78° C. the bath is removed until the suspension has dissolved and subsequently 7.2 ml of acetic acid in 10 ml of ether are added dropwise at -78° C. The solution is poured into saturated ammonium chloride solution/ethyl acetate. The organic phase is washed with saturated sodium bicarbonate solution and 10% sodium chloride solution, dried and evaporated. After silica gel chromatography with hexane/ethyl acetate 95:5 there are obtained 4.3 g of (4E,8E)-1-(4-bromo-phenyl)-4,8-dimethyl-10-(tetrahydro-pyran-2-yloxy)-deca-4,8-dien-1-ol.

reactant | 1,4-dibromobenzene | 10.7 g | BrC1=CC=C(C=C1)Br | C6H4Br2
reactant | butyllithium | 1.6M, 25.6 ml | C(CCC)[Li]
reactant | (4E,8E)-(RS)-4,8-dimethyl-10-(tetrahydro-pyran-2-yloxy)-deca-4,8-dienal | 6.08 g | C/C(/CCC=O)=C\CC\C(=C\COC1OCCCC1)\C | C17H28O3
solvent | THF | 80 ml | C1CCOC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | (4E,8E)-1-(4-bromo-phenyl)-4,8-dimethyl-10-(tetrahydro-pyran-2-yloxy)-deca-4,8-dien-1-ol | 4.3 g | BrC1=CC=C(C=C1)C(CC\C(=C\CC\C(=C\COC1OCCCC1)\C)\C)O | C23H33BrO3
